US04877899
3-Hexylthio-2-propenyl chloride is added to a solution of diisopropyl ethyl amine (3.68 g, 28.5 mmol) in 20 ml of methanol. The mixture is stirred overnight at RT. It is then diluted with hexane, washed with water and with brine and is stripped. The crude product is purified by prep. TLC to give 3-methoxy-1-hexylthio-1-propene.

reactant | 3-Hexylthio-2-propenyl chloride | C(CCCCC)SC=CCCl | C9H17ClS
reactant | diisopropyl ethyl amine | 28.5 mmol, 3.68 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanol | 20 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 3-methoxy-1-hexylthio-1-propene | COCC=CSCCCCCC | C10H20OS
